US06124462
The general procedure from Example 1 was followed using 4-chloroanisole (171 mg, 1.2 mmol) and piperidine (100 μl, 1.0 mmol) with Pd2 (dba)3 (20 mg, 0.0218 mmol) and (Me3C)2PH(O) (14.5 mg, 0.0878 mmol) and NaOtBu (144 mg, 1.5 mmol) in 4.0 mL of toluene. After 12 h, the reaction mixture was chromatographed with 5% ethyl acetate/hexane to give 128 mg (67% yield) of N-(4-methoxyphenyl)piperidine. It was >95% pure by 1H NMR and GC/MS. 1H NMR (500 MHz, CDCl3): δ 6.81 (d, J=9.11 Hz, 2H), 6.72 (d, J=9.11 Hz, 2H), 3.65 (s, 3H), 2.92 (t, J=5.46 Hz, 4H), 1.60 (m, 4H), 1.46 (m, 2H) ppm. 13C NMR (125 Mhz, CDCl3): δ 153.5, 146.8, 118.6, 114.3, 55.4, 52.2, 26.1, 24.1 ppm.

reactant | 4-chloroanisole | 1.2 mmol, 171 mg | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | piperidine | 1.0 mmol, 100 μl | N1CCCCC1 | C5H11N
reactant | NaOtBu | 1.5 mmol, 144 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 (dba)3 | 0.0218 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-methoxyphenyl)piperidine | 128 mg, 67% yield | COC1=CC=C(C=C1)N1CCCCC1 | C12H17NO
